US06316485B1
A mixture of 2-methoxy-5-nitrobenzonitrile (14 g), ammonium chloride (5 g), the powder of reduced iron (9 g) in methanol was refluxed for 4 hours and cooled. The reaction mixture was filtered and the filtrate was poured into water. The resultant precipitates were filtered and washed with water to give 3-cyano-4-methoxyaniline (7.7 g).

reactant | 2-methoxy-5-nitrobenzonitrile | 14 g | COC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C8H6N2O3
reactant | ammonium chloride | 5 g | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
product | 3-cyano-4-methoxyaniline | 7.7 g | C(#N)C=1C=C(N)C=CC1OC | C8H8N2O
